US08030334B2
A flask is charged with N-(tert-butoxycarbonyl)-6-chloro-1H-indol-2-ylboronic acid (8.3 g, 28.1 mmol), 5-bromonicotinaldehyde (4.35 g, 23.4 mmol), K3PO4 (9.94 g, 46.8 mmol), s-Phos (0.480 g, 1.170 mmol) and Pd2(dba)3 (0.429 g, 0.468 mmol), and the flask is flushed with N2. Toluene (250 mL) is added, and the mixture is heated to 85° C. for 1.5 h. The mixture is cooled to room temperature. Ethyl acetate (250 mL) is added and the mixture is filtered through a pad of silica gel, which is washed with EtOAc. Silica gel is added to the combined filtrate, which is concentrated in vacuo. The residue is placed under high vacuum at 63° C. overnight, and after elution with ethyl acetate, 5-(6-chloro-1H-indol-2-yl)-pyridine-3-carbaldehyde is obtained. MS (ESI) m/z 257.0 and 258.9 (M+H)+.

reactant | N-(tert-butoxycarbonyl)-6-chloro-1H-indol-2-ylboronic acid | 28.1 mmol, 8.3 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)Cl)B(O)O | C13H15BClNO4
reactant | 5-bromonicotinaldehyde | 23.4 mmol, 4.35 g | BrC=1C=NC=C(C=O)C1 | C6H4BrNO
reactant | K3PO4 | 46.8 mmol, 9.94 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | s-Phos | 1.170 mmol, 0.480 g | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
catalyst | Pd2(dba)3 | 0.468 mmol, 0.429 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-(6-chloro-1H-indol-2-yl)-pyridine-3-carbaldehyde | ClC1=CC=C2C=C(NC2=C1)C=1C=C(C=NC1)C=O | C14H9ClN2O
